US04636513
(7) N-(4-Isoxazolylcarbonyl)-piperidine
of melting point 78° to 81° C., prepared from 4-isoxazolecarboxylic acid chloride and piperidine.

reactant | 4-isoxazolecarboxylic acid chloride | O1N=CC(=C1)C(=O)Cl | C4H2ClNO2
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-(4-Isoxazolylcarbonyl)-piperidine | O1N=CC(=C1)C(=O)N1CCCCC1 | C9H12N2O2
